US06180627B2
Benzyl 2-[3-[(1S)-1-benzyl-2-(dimethylamino)ethyl]amino-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate
The title compound was prepared by a similar method to preparation 18 from N-[(2S)-2-amino-3-phenylpropyl]-N,N-dimethylamine (190 mg, 1.07 mmol; prepared as described in Chem. Pharm. Bull. 1970, 18,1731-1736) and benzyl 2-[3,5-dichloro-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate (preparation 17) (361 mg, 1.10 mmol). The crude product was purified by chromatography (SiO2; gradient elution 100% hexane; 80:20 hexane:ethyl acetate; 60:40 hexane:ethyl acetate; 40:60 hexane:ethyl acetate; 20:80 hexane:ethyl acetate) to give the desired product (yellow solid, 260 mg, 50%). 1H NMR (CDCl3) δ 2.20 (m, 9H), 2.30 (m, 1H), 2.20 (m, 1H), 2.85 (m, 1H), 3.10 (m, 1H), 4.25 (m, 1H), 4.80 (s, 2H), 5.20 (s, 2H), 6.20 (m, 1H), 7.20 (m, 5H), 7.35 (m, 5H). LRMS m/z=469.2, 471.3 (M+1)+.

reactant | N-[(2S)-2-amino-3-phenylpropyl]-N,N-dimethylamine | 1.07 mmol, 190 mg | N[C@H](CN(C)C)CC1=CC=CC=C1 | C11H18N2
reactant | benzyl 2-[3,5-dichloro-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate | 1.10 mmol, 361 mg | ClC1=C(N(C(C(=N1)Cl)=O)CC(=O)OCC1=CC=CC=C1)C | C14H12Cl2N2O3
product | Benzyl 2-[3-[(1S)-1-benzyl-2-(dimethylamino)ethyl]amino-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate | 260 mg, 50% | C(C1=CC=CC=C1)[C@@H](CN(C)C)NC=1C(N(C(=C(N1)Cl)C)CC(=O)OCC1=CC=CC=C1)=O | C25H29ClN4O3
